US07618961B2
Ethyl (2-{[(4-iodophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and pipsyl chloride as described in the synthetic METHOD B to give a white solid (47.0 mg) with purity >90%. LCMS (pos) m/z 453.0.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | pipsyl chloride | C1=CC(=CC=C1S(=O)(=O)Cl)I | C6H4ClIO2S
product | Ethyl (2-{[(4-iodophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | IC1=CC=C(C=C1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C13H13IN2O4S2
